US04971971
Synthesis of 2-hexylthio-7-methoxy-6-nitro-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one (intermediate)
To 50 ml of methanol, 3.0 g of 7-chloro-2-hexylthio-6-nitro-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one and 1.0 g of pyridine were added, and the mixture was stirred under refluxing for 30 minutes. Water was added to the reaction mixture and the organic layer was extracted with ethyl acetate The ethyl acetate solution was dried over anhydrous magnesium sulfate, and the solvent was distilled off. The residue was purified by silica gel column chromatography using an ethyl acetate/hexane mixture as an eluent. Thus 1.9 g of brown transparent viscous liquid of 2-hexylthio-7-methoxy-6-nitro-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was obtained. Yield 63%.

reactant | methanol | 50 ml | CO | CH4O
reactant | 7-chloro-2-hexylthio-6-nitro-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 3.0 g | ClC=1N=C2N(C(C1[N+](=O)[O-])=O)N=C(S2)SCCCCCC | C11H13ClN4O3S2
reactant | pyridine | 1.0 g | N1=CC=CC=C1 | C5H5N
solvent | Water | O | H2O
product | 2-hexylthio-7-methoxy-6-nitro-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 1.9 g, Yield 63% | C(CCCCC)SC1=NN2C(=NC(=C(C2=O)[N+](=O)[O-])OC)S1 | C12H16N4O4S2
